US07094800B2
1n) tert-butyl ((2R,5S,7aS)-5-cyano-3-oxohexahydropyrrolizin-2-yl)carbamate
100 mg of tert-butyl ((2R,5S,7aS)-5-carbamoyl-3-oxohexahydropyrrolizin-2-yl)carbamate were dissolved in 2 ml of dimethylformamide, and 65 mg of cyanuric chloride were added. The mixture was stirred for 3 h, and the dimethylformamide was removed in vacuo. The residue was chromatographed on silica gel.

reactant | tert-butyl ((2R,5S,7aS)-5-carbamoyl-3-oxohexahydropyrrolizin-2-yl)carbamate | 100 mg | C(N)(=O)[C@H]1N2C([C@@H](C[C@@H]2CC1)NC(OC(C)(C)C)=O)=O | C13H21N3O4
reactant | cyanuric chloride | 65 mg | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | tert-butyl ((2R,5S,7aS)-5-cyano-3-oxohexahydropyrrolizin-2-yl)carbamate | C(#N)[C@H]1N2C([C@@H](C[C@@H]2CC1)NC(OC(C)(C)C)=O)=O | C13H19N3O3
